US07175670B2
2 g of (1-piperidyl)-3,5-dinitropyridine, obtained according to Protocol A from 2-chloro-3,5-dinitropyridine and piperidine, were reduced by hydrogen transfer in 50 ml of ethanol in the presence of palladium-on-charcoal and 5 ml of cyclohexene. 930 mg of N-(3,5-diaminopyrid-2-yl)piperidine dihydrochloride were thus obtained.

reactant | 2-chloro-3,5-dinitropyridine | ClC1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C5H2ClN3O4
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | hydrogen | [H][H] | H2
reactant | cyclohexene | 5 ml | C1=CCCCC1 | C6H10
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | N-(3,5-diaminopyrid-2-yl)piperidine dihydrochloride | 930 mg | Cl.Cl.NC=1C(=NC=C(C1)N)N1CCCCC1 | InChI=1S/C10H16N4.2ClH/c11-8-6-9(12)10(13-7-8)14-4-2-1-3-5-14;;/h6-7H,1-5,11-12H2;2*1H
